US07994185B2
Step B: N-[2-Chloro-3-(2-(1,1-dimethylethyl)-5-{2-[(2-methylpropyl)amino]-4-pyrimidinyl}-1,3-thiazol-4-yl)phenyl]-2,6-difluorobenzenesulfonamide
Following a procedure analogous to the procedure described in Example 18, Step B using N-{2-chloro-3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]phenyl}-2,6-difluorobenzenesulfonamide (0.15 g, 0.28 mmol) and isobutylamine (0.15 g, 2.01 mmol), the title compound was obtained as a yellow solid (0.078 g, 45.4% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 10.81 (s, 1H), 8.01 (d, J=5.1 Hz, 1H), 7.62-7.71 (m, 1H), 7.49-7.53 (m, 1H), 7.45 (t, J=7.7 Hz, 1H), 7.29-7.39 (m, 2H), 7.21 (t, J=9.1 Hz, 2H), 5.65 (d, 1H), 3.03 (br. s., 2H), 1.84 (dt, J=13.4, 6.7 Hz, 1H), 1.40 (s, 9H), 0.88 (d, J=6.6 Hz, 6H). MS (ESI) 592.2 [M+H]+.

reactant | N-{2-chloro-3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]phenyl}-2,6-difluorobenzenesulfonamide | 0.28 mmol, 0.15 g | ClC1=C(C=CC=C1C=1N=C(SC1C1=NC(=NC=C1)Cl)C(C)(C)C)NS(=O)(=O)C1=C(C=CC=C1F)F | C23H18Cl2F2N4O2S2
reactant | isobutylamine | 2.01 mmol, 0.15 g | C(C(C)C)N | C4H11N
product | N-[2-Chloro-3-(2-(1,1-dimethylethyl)-5-{2-[(2-methylpropyl)amino]-4-pyrimidinyl}-1,3-thiazol-4-yl)phenyl]-2,6-difluorobenzenesulfonamide | ClC1=C(C=CC=C1C=1N=C(SC1C1=NC(=NC=C1)NCC(C)C)C(C)(C)C)NS(=O)(=O)C1=C(C=CC=C1F)F | C27H28ClF2N5O2S2
